US07473777B2
Into a four-neck flask of glass provided with a stirrer, a thermometer, a water separation tube, and a cooling tube and having an inner volume of 100 ml, 30 gr of 2-butanone, 10 gr (0.05 mol) of tetrafluorophthalonitrile, and 3.63 gr (0.062 mol) of potassium fluoride were placed and the flask was dipped in a water bath. The reaction mixture in the reaction vessel was kept stirred at room temperature and 7.6 g (0.053 mol) of 2-chlorobenzene thiol were added thereto over about 20 minutes. The reaction temperature rose to the highest level of 30° C. When the reaction was continued for additional one hour after the completion of this addition, the conversion of tetrafluorophthalonitrile reached 99.0%. The resultant reaction solution was filtered to separate a solid component. The solid component was evaporated under a reduced pressure at 50° C. to obtain about 15 g of 2-butanone by distillation. 100 ml of methanol was added to the resultant residue of the distillation to precipitate crystals. When the crystals consequently precipitated were filtered, 11.4 gr (0.035 mol, yield: 70.2 mol %) of 4-(2-chloro phenylthio)-3,5,6-trifluorophthalonitrile was obtained.

reactant | tetrafluorophthalonitrile | 0.05 mol, 10 gr | FC=1C(=C(C(=C(C1C#N)C#N)F)F)F | C8F4N2
reactant | potassium fluoride | 0.062 mol, 3.63 gr | [F-].[K+]
reactant | 2-chlorobenzene thiol | 0.053 mol, 7.6 g | ClC1=C(C=CC=C1)S | C6H5ClS
solvent | 2-butanone | 100 ml, 30 gr | CC(CC)=O | C4H8O
product | 4-(2-chloro phenylthio)-3,5,6-trifluorophthalonitrile | 0.035 mol, 11.4 gr | ClC1=C(C=CC=C1)SC=1C(=C(C(C#N)=C(C1F)F)C#N)F | C14H4ClF3N2S
